data/rgd1/barriers/filtered.csv
rxn,smiles,ea
MR_181671_1,[C:1]([C:4]([N:3](/[C:5]([N:7]([H:12])[H:13])=[C:8](\[C:2]([H:18])([H:19])[H:20])[H:14])[N:6]([H:10])[H:11])=[O:9])([H:15])([H:16])[H:17]>>[C:1]([C:4]([C:8]([C:2]([H:18])([H:19])[H:20])(/[C:5](=[N:3]/[N:6]([H:10])[H:11])[N:7]([H:12])[H:13])[H:14])=[O:9])([H:15])([H:16])[H:17],36.74765499996113
MR_348605_1,[C:1]([C:2]([C:3](=[O:7])[H:13])([H:11])[H:12])(/[C:4](=[N:6]/[H:10])[H:14])([O:5][H:8])[H:9]>>[C:1]([C:2]([C:3](/[C:4](=[N:6]/[H:10])[H:14])([O:7][H:8])[H:13])([H:11])[H:12])(=[O:5])[H:9],64.21834999998097
MR_369989_1,[C:1](/[C:4](=[C:3]([N:6]([H:14])[H:15])\[N:9]=[C:2](/[N:5]([H:12])[H:13])[O:7][H:10])[O:8][H:11])([H:16])([H:17])[H:18]>>[C:1]([C:4]1([O:8][H:11])[C:2]([N:5]([H:12])[H:13])([O:7][H:10])[N:9]=[C:3]1[N:6]([H:14])[H:15])([H:16])([H:17])[H:18],35.129332499980706
MR_688802_1,[C:1](\[N:2]([H:8])[H:9])(=[C:5](\[N:3]([H:10])[H:11])[H:13])[O:6][C:4](=[O:7])[H:12]>>[C:1]([N:2]([H:8])[H:9])([C:5]([N:3]([H:10])[H:11])([C:4](=[O:7])[H:12])[H:13])=[O:6],34.429042500000975
MR_319146_1,[C:1]1([N:7]([H:16])[H:17])([H:11])[C:4]([N:2]([N:5]([H:12])[H:13])[H:9])([N:3]([N:6]([H:14])[H:15])[H:10])[O:8]1>>[C:1]([N:2]([N:5]([H:12])[H:13])[H:9])([C:4]([N:3]([N:6]([H:14])[H:15])[H:10])=[O:8])([N:7]([H:16])[H:17])[H:11],23.300329999990907
MR_592485_0,[C:1]([N:3]([N:4](/[C:5](=[C:6](\[C:2]([H:20])([H:21])[H:22])[N:9]([H:15])[H:16])[N:8]([H:13])[H:14])[H:10])[N:7]([H:11])[H:12])([H:17])([H:18])[H:19]>>[C:1]([N:3]([C:6]([C:2]([H:20])([H:21])[H:22])(/[C:5](=[N:4]/[H:10])[N:8]([H:13])[H:14])[N:9]([H:15])[H:16])[N:7]([H:11])[H:12])([H:17])([H:18])[H:19],33.45829999995502
MR_134569_0,[C:1]([N:2]([H:6])[H:7])([O:4][C:3](=[O:5])[H:8])([H:9])[H:10]>>[C:1]([N:2]([H:6])[H:7])([O:5][C:3](=[O:4])[H:8])([H:9])[H:10],29.676357500015484
MR_195822_0,[C:1]([C:2]([H:16])([H:17])[H:18])(/[C:4](=[C:3]([N:5]([H:9])[H:10])/[N:7]=[N:8]/[H:13])[N:6]([H:11])[H:12])([H:14])[H:15]>>[C:1]([C:2]([H:16])([H:17])[H:18])(/[C:3](=[C:4]([N:6]([H:11])[H:12])/[N:7]=[N:8]/[H:13])[N:5]([H:9])[H:10])([H:14])[H:15],73.16398999997404
MR_524374_0,[C:1]([O:5][C:2]([H:12])([H:13])[H:14])(/[N:6]=[C:4](\[C:3](=[O:7])[H:10])[H:11])([H:8])[H:9]>>[C:1](=[N:6][C:4]([C:3](=[O:7])[H:10])([O:5][C:2]([H:12])([H:13])[H:14])[H:11])([H:8])[H:9],59.52402249999082
MR_253242_1,[C:1]([C:2]([H:12])([H:13])[H:14])([C:3]([H:11])([H:15])[H:16])([C:7]([C:4]([H:17])([H:18])[H:19])=[C:8]([C:5]([H:21])([H:22])[H:23])[C:6]([H:20])([H:24])[H:25])[O:9][H:10]>>[C:1]([C:2]([H:12])([H:13])[H:14])([C:3]([H:11])([H:15])[H:16])=[C:7]([C:4]([H:17])([H:18])[H:19])[C:8]([C:5]([H:21])([H:22])[H:23])([C:6]([H:20])([H:24])[H:25])[O:9][H:10],59.16383750000847
MR_238741_0,[C:1]([N:7][N:6]/[C:5](=[C:3](\[C:2]([H:14])([H:15])[H:16])[N:4]([H:8])[H:9])[H:10])([H:11])([H:12])[H:13]>>[C:1]([N:7]1[C:3]([C:2]([H:14])([H:15])[H:16])([N:4]([H:8])[H:9])[C:5]([H:10])=[N:6]1)([H:11])([H:12])[H:13],33.66725749999816
MR_508483_0,[C:1]([C:2]([H:13])([H:14])[H:15])([N:3]([O:6][H:7])[H:8])([N:4]([N:5]([H:11])[H:12])[H:9])[H:10]>>[C:1]([C:2]([H:13])([H:14])[H:15])([N:3]([N:4]([N:5]([H:11])[H:12])[H:9])[H:8])([O:6][H:7])[H:10],30.44504500000087
MR_334080_0,[C:1](=[C:2]([N:5]([H:13])[H:14])/[C:7](=[C:8](/[N:6]([H:15])[H:16])[H:18])[H:17])([N:3]([H:9])[H:10])[N:4]([H:11])[H:12]>>[C:1]1([N:3]([H:9])[H:10])([N:4]([H:11])[H:12])[C:2]([N:5]([H:13])[H:14])=[C:7]([H:17])[C@@:8]1([N:6]([H:15])[H:16])[H:18],37.58662249998309
MR_146976_2,[C:1]1([C:3]([H:14])([H:15])[H:16])([H:8])[C:5]([C:2]([C:4]([H:17])([H:18])[H:19])([H:12])[H:13])([N:6]([H:9])[H:10])[N:7]1[H:11]>>[C:1]([C:3]([H:14])([H:15])[H:16])(/[C:5]([C:2]([C:4]([H:17])([H:18])[H:19])([H:12])[H:13])=[N:7]\[H:11])([N:6]([H:9])[H:10])[H:8],68.25756750002
MR_703376_1,[C:1]([C:4]([C:5]([N:7]([H:9])[H:10])=[C:8]([H:20])[H:21])=[C:6]([C:2]([H:14])([H:15])[H:16])[C:3]([H:17])([H:18])[H:19])([H:11])([H:12])[H:13]>>[C:1]([C:4]1=[C:5]([N:7]([H:9])[H:10])[C:8]([H:20])([H:21])[C:6]1([C:2]([H:14])([H:15])[H:16])[C:3]([H:17])([H:18])[H:19])([H:11])([H:12])[H:13],40.40974500002491
MR_219877_1,[C:1]([c:4]1[o:6][c:3]([O:7][H:9])[c:5]([C:2]([H:13])([H:14])[H:15])[n:8]1)([H:10])([H:11])[H:12]>>[C:1]([C:4]1=[N:8][C:5]1([C:2]([H:13])([H:14])[H:15])[C:3](=[O:6])[O:7][H:9])([H:10])([H:11])[H:12],61.02374749998532
MR_287072_0,[C:1]([N:2]([C:3](=[O:7])[H:8])[O:6][C:4](=[C:5]([H:13])[H:14])[H:9])([H:10])([H:11])[H:12]>>[C:1]([N:2]([C:4](=[C:5]([H:13])[H:14])[H:9])[O:6][C:3](=[O:7])[H:8])([H:10])([H:11])[H:12],64.78309999998189
MR_356125_0,[C:1](/[N:7]=[N:6]/[C:2]([N:3]([H:9])[H:10])=[C:4](\[O:5][H:8])[H:11])([H:12])([H:13])[H:14]>>[C:1]([N:7]1[C:4]([O:5][H:8])([H:11])[C:2]([N:3]([H:9])[H:10])=[N:6]1)([H:12])([H:13])[H:14],36.71063250001893
MR_623150_1,[N:1]1([H:9])[C:2](/[C:3](=[N:6]\[H:10])[H:11])([O:7][O:5][H:8])[O:4]1>>[N:1]([C:2](/[C:3](=[N:6]\[H:10])[H:11])=[O:7])([O:4][O:5][H:8])[H:9],62.32204500002467
